US05185370
4-[(4-Cyanophenyl)methylene]-3,5-heptanedione
The produre described in Example 19 was repeated by using 2.6 g 4-cyanobenzaldehyde and 5.0 g 3,5-heptanedione. Yield 2.8 g, mp 59°-60° C.

reactant | 4-cyanobenzaldehyde | 2.6 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 3,5-heptanedione | 5.0 g | CCC(CC(CC)=O)=O | C7H12O2
product | 4-[(4-Cyanophenyl)methylene]-3,5-heptanedione | C(#N)C1=CC=C(C=C1)C=C(C(CC)=O)C(CC)=O | C15H15NO2
